US05731331
2.0 g of LiAlH4 are added to a solution of 3.3 g (10 mmol) of 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)-3-oxobutyl]-1H-pyrazole in 25 ml of THF. The resulting mixture is refluxed for 2 hours. The excess LiAlH4 is destroyed by addition of concentrated NaOH and water. The inorganic salts are filtered off and the THF is evaporated under vacuum, giving 2.6 g (8.2 mmol) of 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]-1H-pyrazole.

reactant | LiAlH4 | 2.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)-3-oxobutyl]-1H-pyrazole | 10 mmol, 3.3 g | C1(=CC=CC=C1)C=1CCN(CC1)CC(CCN1N=CC=C1)=O | C18H21N3O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)butyl]-1H-pyrazole | 8.2 mmol, 2.6 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1N=CC=C1 | C18H23N3
